### PR TITLE
[Merged by Bors] - feat: add four lemmas on topological sums

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds four API lemmas that are useful for establishing Euler products:
```lean
@[simp] lemma hasSum_unique [Unique β] (f : β → α) : HasSum f (f default)

@[simp] lemma hasSum_singleton (m : β) (f : β → α) : HasSum (({m} : Set β).restrict f) (f m)

lemma tsum_setElem_eq_tsum_setElem_diff [T2Space α] {f : β → α} (s t : Set β) (hf₀ : ∀ b ∈ t, f b = 0) :
    ∑' a : s, f a = ∑' a : (s \ t : Set β), f a

lemma tsum_eq_tsum_diff_singleton {α  β : Type*} [AddCommMonoid α] [TopologicalSpace α] [T2Space α]
    {f : β → α} (s : Set β) (b : β) (hf₀ : f b = 0) :
    ∑' a : s, f a = ∑' a : (s \ {b} : Set β), f a
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 1]
```diff
@@ -215,6 +215,10 @@ theorem hasSum_single {f : β → α} (b : β) (hf : ∀ (b') (_ : b' ≠ b), f
   hasSum_sum_of_ne_finset_zero <| by simpa [hf]
 #align has_sum_single hasSum_single
 
+lemma hasSum_singleton (m : β) (f : β → α) : HasSum (fun x : ({m} : Set β) ↦ f x) (f m) := by
+  convert_to HasSum (fun x : ({m} : Set β) ↦ f x) (f (⟨m, rfl⟩ : ({m} : Set β)))
+  exact hasSum_single (α := α) _ <| fun m' h ↦ False.elim <| h <| Subtype.ext m'.2
+
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:221]: In the statement, one can replace `(fun x : ({m} : Set β) ↦ f x)` with `(({m} : Set β).restrict f)` which is slightly shorter and IMHO also more readable. Would that change break other code of yours downstream of this?

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 2]
```diff
@@ -638,6 +642,28 @@ theorem tsum_range {g : γ → β} (f : β → α) (hg : Injective g) :
   simp_rw [← comp_apply (g := g), tsum_univ (f ∘ g)]
 #align tsum_range tsum_range
 
+open Set in
+/-- If `f b = 0` for all `b ∈ t`, then the sum over `f a` with `a ∈ s` is the same as the
+sum over `f a` with `a ∈ a ∖ t`. -/
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:647]:
```suggestion
sum over `f a` with `a ∈ s ∖ t`. -/
```

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 3]
```diff
@@ -638,6 +642,28 @@ theorem tsum_range {g : γ → β} (f : β → α) (hg : Injective g) :
...
+  refine tsum_congr fun b' ↦ ?_
+  by_cases hs : b' ∈ s \ t
+  · rw [indicator_of_mem hs f, indicator_of_mem (mem_of_mem_diff hs) f]
+  · rw [indicator_of_not_mem hs f]
+    rw [mem_diff, not_and, not_not_mem] at hs
+    by_cases h₁ : b' ∈ s
+    · simpa [indicator_of_mem h₁] using hf₀ b' <| hs h₁
+    · exact indicator_of_not_mem h₁ f
+
+open Set in
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:660]: This line doesn't look like it's doing anything?

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 4]
```diff
@@ -638,6 +642,28 @@ theorem tsum_range {g : γ → β} (f : β → α) (hg : Injective g) :
   simp_rw [← comp_apply (g := g), tsum_univ (f ∘ g)]
 #align tsum_range tsum_range
 
+open Set in
+/-- If `f b = 0` for all `b ∈ t`, then the sum over `f a` with `a ∈ s` is the same as the
+sum over `f a` with `a ∈ a ∖ t`. -/
+lemma tsum_eq_tsum_diff [T2Space α] {f : β → α} (s t : Set β) (hf₀ : ∀ b ∈ t, f b = 0) :
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:648]:
```suggestion
lemma tsum_setElem_eq_tsum_setElem_diff [T2Space α] {f : β → α} (s t : Set β) (hf₀ : ∀ b ∈ t, f b = 0) :
```
since `a : s` refers to `Set.Elem`. `setCoe` might also be reasonable.

Comment (alreadydone) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:648]: I think you can use [Function.Injective.hasSum_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#Function.Injective.hasSum_iff) with g = [Set.inclusion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Basic.html#Set.inclusion).

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:660]: A left-over from the previous version. Removing it now.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:648]: OK to the name change.


> I think you can use [Function.Injective.hasSum_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#Function.Injective.hasSum_iff) with g = [Set.inclusion](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Basic.html#Set.inclusion).

The `tsum` version does not assume summability, so using `Function.Injective.hasSum_iff` would require a case distinction regarding `Summable f`. Not sure if this is preferable.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:221]: OK. It's defeq, and nothing breaks.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:647]: Thanks! Fixed.

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 5]
```diff
@@ -215,6 +215,10 @@ theorem hasSum_single {f : β → α} (b : β) (hf : ∀ (b') (_ : b' ≠ b), f
   hasSum_sum_of_ne_finset_zero <| by simpa [hf]
 #align has_sum_single hasSum_single
 
+lemma hasSum_singleton (m : β) (f : β → α) : HasSum (({m} : Set β).restrict f) (f m) := by
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:218]: Is there a `hasSum_unique`? That might generalize this lemma.

Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:218]: There is [HasSum.unique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#HasSum.unique), but it says `HasSum f a₁ → HasSum f a₂ → a₁ = a₂` , which looks a bit different.

Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:218]: What would be the more general statement that you have in mind?

Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:218]: (There is [hasSum_single](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/InfiniteSum/Basic.html#hasSum_single), which is used in the proof.)

Comment (eric-wieser) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean:218]: The statement would be
```lean
@[simp] lemma hasSum_singleton [Unique β] (f : β → α) : HasSum f (f default) := by
```

Comment (MichaelStollBayreuth) [reply Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]: OK; added.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Comment by eric-wieser** [comment]
I suspect the linter is going to reject the singleton lemma, but I guess we'll find out
